US09029399B2
Preparation of 1-(benzo[b]thiophen-2-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (6A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 150 mg, 0.738 mmol) was reacted with 2-bromobenzo[b]thiophene (188 mg, 0.886 mmol), 1,4-dioxane (6 mL), copper iodide (14.0 mg, 0.0739 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (10.5 mg, 0.0739 mmol) and potassium phosphate (470 mg, 2.21 mmol) to afford the crude product. Purification by column chromatography on silica gel (0.5% methanol in CHCl3) afforded 85 mg of the product (34% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.738 mmol, 150 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 2-bromobenzo[b]thiophene | 0.886 mmol, 188 mg | BrC1=CC2=C(S1)C=CC=C2 | C8H5BrS
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.0739 mmol, 10.5 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 2.21 mmol, 470 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.0739 mmol, 14.0 mg | [Cu](I)I
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 1-(benzo[b]thiophen-2-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 85 mg, 34% yield | S1C2=C(C=C1N1C(N(CC1)C=1C=NC=CC1C1CC1)=O)C=CC=C2 | C19H17N3OS
